US07470680B2
(S)-7-chloro-4-(2-(4-(1-methyl-5-oxo-4,5-dihydro-1H-pyrrolo[3,2-b]pyridin-6-yl)piperidin-1-yl)-2-oxoethyl)-2-neopentyl-1,2,4,5-tetrahydroazepino[3,4-e]indol-3(8H)-one.
To a mixture of 1-methyl-6-(piperidin-4-yl)-1H-pyrrolo[3,2-b]pyridin-5(4H)-one (41 mg, 0.177 mmol), (S)-2-(4-chloro-9-neopentyl-8-oxo-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid (64.5 mg, 0.177 mmol), HOBT (26.3 mg, 0.195 mmol) and EDC (37.4 mg, 0.195 mmol) in DMF (2 mL) was added diisopropylethylamine (108 μl, 0.620 mmol) at rt. The resulting mixture was stirred at rt over night, most of the solvent was removed under N2, the residue was purified on reverse phase PrepHPLC to afford a grey gum which was triturated with Et2O (2 mL), filtered and washed with Et2O (2×0.5 mL) to afford the expected product, (S)-7-chloro-4-(2-(4-(1-methyl-5-oxo-4,5-dihydro-1H-pyrrolo [3,2-b]pyridin-6-yl)piperidin-1-yl)-2-oxoethyl)-2-neopentyl-1,2,4,5-tetrahydroazepino[3,4-e]indol-3(8H)-one (32 mg grey solid. Mass spec: 577.30 (MH+) calc. for C31H37ClN6O3 576.26.

reactant | 1-methyl-6-(piperidin-4-yl)-1H-pyrrolo[3,2-b]pyridin-5(4H)-one | 0.177 mmol, 41 mg | CN1C=CC=2NC(C(=CC21)C2CCNCC2)=O | C13H17N3O
reactant | (S)-2-(4-chloro-9-neopentyl-8-oxo-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid | 0.177 mmol, 64.5 mg | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)O)=O)CC(C)(C)C | C18H22ClN3O3
reactant | HOBT | 0.195 mmol, 26.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.195 mmol, 37.4 mg
reactant | diisopropylethylamine | 0.620 mmol, 108 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S)-7-chloro-4-(2-(4-(1-methyl-5-oxo-4,5-dihydro-1H-pyrrolo [3,2-b]pyridin-6-yl)piperidin-1-yl)-2-oxoethyl)-2-neopentyl-1,2,4,5-tetrahydroazepino[3,4-e]indol-3(8H)-one | ClC=1C=C2C(=C3C=CNC13)CN(C([C@@H](C2)CC(=O)N2CCC(CC2)C2=CC1=C(NC2=O)C=CN1C)=O)CC(C)(C)C | C32H38ClN5O3
